US07723330B2
Step C: Preparation of 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one:
POCl3 (5.6 mL, 61.3 mmol) was added dropwise to a solution of 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one in DMF (30 mL) with stirring at 0° C. followed by heating at 90° C. for 1.5 hours. The residue was cooled to 0° C., quenched by adding saturated sodium acetate solution, extracted with CH2Cl2, washed with water, dried over MgSO4, and concentrated. The crude was purified by silica gel flash column chromatography (0.7% MeOH in CH2Cl2) to afford 3.52 g (64%) of the desired product. LRMS (ESI pos) m/e 224.9, 227.0 (M+1, Cl pattern).

reactant | POCl3 | 61.3 mmol, 5.6 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | FC1=CC=C(C=C1)N1C(C(=NC=C1)OC)=O | C11H9FN2O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one | 3.52 g, 64% | ClC=1C(N(C=CN1)C1=CC=C(C=C1)F)=O | C10H6ClFN2O
